US07816401B2
2M trimethylaluminum toluene solution (90 ml, 180 mmol) was added to a THF (180 ml) solution of N,O-dimethylhydroxyamine hydrochloride (18.3 g, 187.6 mmol) at −10° C. under stirring. After the reaction solution was warmed to 0° C. and stirred for 10 minutes, it was warmed to room temperature and further stirred for 30 minutes. The reaction solution was cooled to −10° C. again, and a THF-dichloromethane solution (4:5, 180 ml) of (4R)-4-benzyl-3-[(2R,3S)-3-hydroxy-2-methylpentanoyl]-1,3-oxazolidin-2-one (21.85 g, 75 mmol) was added dropwise to the reaction solution. After the reaction solution was warmed to 0° C. and stirred for two hours, a mixed solution of dichloromethane −0.5N hydrochloric acid (1:1, 80 ml) was added slowly, and the mixture was stirred for one hour at 0° C. The reaction solution was filtered through celite and the filtrate was dried over anhydrous sodium sulfate. After the drying agent was filtered off, the organic layer was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (Merck, commercial name Silica Gel 60; heptane:ethyl acetate=1.5:1) to obtain (2R,3S)-3-hydroxy-N-methoxy-N,2-dimethylpentanamide (13.0 g) as a colorless oil.

reactant | trimethylaluminum toluene | 180 mmol, 2M, 90 ml | C1(=CC=CC=C1)C.C[Al](C)C
reactant | THF | 180 ml | C1CCOC1 | C4H8O
reactant | N,O-dimethylhydroxyamine hydrochloride | 187.6 mmol, 18.3 g | Cl.CNOC
reactant | (4R)-4-benzyl-3-[(2R,3S)-3-hydroxy-2-methylpentanoyl]-1,3-oxazolidin-2-one | 75 mmol, 21.85 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H]([C@H](CC)O)C)=O | C16H21NO4
solvent | dichloromethane | −0.5N, 80 ml | ClCCl | CH2Cl2
solvent | THF dichloromethane | 180 ml | C1CCOC1.ClCCl
product | (2R,3S)-3-hydroxy-N-methoxy-N,2-dimethylpentanamide | 13.0 g | O[C@H]([C@H](C(=O)N(C)OC)C)CC | C8H17NO3
